* PMOS Common-Source Amplifier AC Response
* BSS84 p-channel MOSFET common-source stage biased off a -5 V rail
* and AC-coupled to a resistive load. Gate is biased with a large
* resistor divider to put the device in saturation so the AC sweep
* shows a clean midband gain.
* Devices exercised: V, R, C, M (PMOS bundled BSS84).

.title PMOS Common-Source AC Response
.include "../../resources/models/ngspice/testcircuit_discrete.lib"

* --- Negative supply and AC test source ---
Vss vss 0 DC -5
Vin in  0 AC 1

* --- Gate DC bias network (forms a divider from Vss to ground) ---
Rg1 vss gate 1.43Meg
Rg2 gate 0   1Meg

* --- Drain load resistor on the -5 V rail ---
Rd vss drain 10k

* --- AC coupling in and out ---
Cin  in    gate  1u
Cout drain out   1u
Rload out 0 100k

* --- PMOS device (drain / gate / source / body) ---
M1 drain gate 0 0 BSS84

* --- Analysis ---
.ac dec 20 1 100Meg

.MEASURE AC av_midband FIND vdb(out) AT=10k

.end
